US06706703B2
Under nitrogen, a 1.60 M solution of n-butyl lithium in hexane (31 mL, 49 mmol) was added to a solution of 1-t-butyldiphenylsiloxy-3,5-dimethoxybenzene (14.68 g, 39.0 mmol) in anhydrous diethyl ether (200 mL) stirred in an ice bath. The reaction mixture was stirred at 35° C. for 3 hours and cooled in the ice bath, followed by the addition of dimethylformamide (9.21 mL, 119.4 mmol). After stirring at room temperature for 1 hour, saturated aqueous ammonium chloride was added, and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield 4-t-butyldiphenylsiloxy-2,6-dimethoxybenzaldehyde as a colorless crystalline powder (melting point: 177.5-120.0° C.) (6.77 g, yield: 41%).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 49 mmol, 31 mL | CCCCCC | C6H14
reactant | 1-t-butyldiphenylsiloxy-3,5-dimethoxybenzene | 39.0 mmol, 14.68 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=CC(=CC(=C1)OC)OC | C24H28O3Si
reactant | dimethylformamide | 119.4 mmol, 9.21 mL | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 4-t-butyldiphenylsiloxy-2,6-dimethoxybenzaldehyde | 6.77 g, yield: 41% | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=CC(=C(C=O)C(=C1)OC)OC | C25H28O4Si
